US08258160B2
Synthesis of N-benzyl-4-methyl-2-(4-(thiophen-3-yl)-1H-1,2,3-triazol-1-yl)thiazole-5-carboxamide
Following the procedure as described in Example 10, making variations as necessary to replace phenylacetylene with 3-ethynylthiophene to react with 2-azido-N-benzyl-4-methylthiazole-5-carboxamide, the title compound was obtained as a white solid in 66% yield: mp 123-126° C. (dichloromethane); 1H NMR (300 MHz, CDCl3) δ 8.49 (s, 1H), 7.82-7.81 (m, 1H), 7.51-7.32 (m, 7H), 6.11 (br s, 1H), 4.63 (d, J=6.0 Hz, 2H), 2.71 (s, 3H); 13C NMR (75 MHz, CDCl3) δ 160.9, 155.4, 153.3, 144.8, 137.4, 130.3, 128.9, 127.9, 127.9, 126.8, 125.7, 124.4, 122.6, 116.4, 44.3, 17.4; MS (ES+) m/z 382.3 (M+1).

reactant | phenylacetylene | C1(=CC=CC=C1)C#C | C8H6
reactant | 3-ethynylthiophene | C(#C)C1=CSC=C1 | C6H4S
reactant | 2-azido-N-benzyl-4-methylthiazole-5-carboxamide | N(=[N+]=[N-])C=1SC(=C(N1)C)C(=O)NCC1=CC=CC=C1 | C12H11N5OS
product | N-benzyl-4-methyl-2-(4-(thiophen-3-yl)-1H-1,2,3-triazol-1-yl)thiazole-5-carboxamide | 66% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N1N=NC(=C1)C1=CSC=C1)C | C18H15N5OS2
